US06245780B1
5-Methoxy-isoquinoline
To an oven dry three neck flask was added 5-hydroxy-quinoline (5 g, 34.5 mmol), and triphenylphosphine. The solids were dissolved in THF (100 mL) and DEAD (8.19 mL, 51.7 mmol) was added slowly. The maroon reaction mixture was stirred at room temperature overnight and then poured into H2O (100 mL) and extracted into EtOAc (3×150 mL). The combined organic fractions were dried over Na2SO4, filtered, concentrated, and purified by column chromatography using 20% EtOAc/hexanes as the eluent. The title compound was isolated as 3.5 g (64%) of a white solid.

reactant | 5-hydroxy-quinoline | 34.5 mmol, 5 g | OC1=C2C=CC=NC2=CC=C1 | C9H7NO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 51.7 mmol, 8.19 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | H2O | 100 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-Methoxy-isoquinoline | COC1=C2C=CN=CC2=CC=C1 | C10H9NO
